US06265426B1
5-Pyrrolidin-1-ylmethyl-furan-2-carboxylic acid methyl ester
A solution of 5-formyl-furan-2-carboxylic acid (2 g, 14.3 mmol) in THF (5 ml) at r.t. was treated with freshly prepared diazomethane in ether (ca. 20 mg/ml) (0.72 ml, 1.2 eq.). The solvent was evaporated and the crude product (1 g, 6.5 mmol) dissolved in THF (10 ml). AcOH (467 mg, 7.8 mmol, 1.2 eq.) and pyrrolidine (554 mg, 7.8 mmol, 1.2 eq.) were added and the mixture stirred at r.t. for 5 hrs. Sodium triacetoxyborohydride (2.06 g, 9.7 mmol, 1.5 eq.) was then added and stirring continued at r.t. under Ar overnight. Satd. NaHCO3 (50 ml) was then added and the mixture extracted with EtOAc, dried with Na2SO4 and the solvent evaporated. The residue was chromatographed over 90 g SiO2 (Merck 230-400 mesh) with EtOAc/n-hexane 1:1 affording the title compound (426 mg, 31% yield) as an orange oil. MS: m/e=209 (M+).

reactant | 5-formyl-furan-2-carboxylic acid | 14.3 mmol, 2 g | C(=O)C1=CC=C(O1)C(=O)O | C6H4O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | ether | 0.72 ml, 1.2 eq. | CCOCC | C4H10O
reactant | AcOH | 7.8 mmol, 467 mg, 1.2 eq. | CC(=O)O | C2H4O2
reactant | pyrrolidine | 7.8 mmol, 554 mg, 1.2 eq. | N1CCCC1 | C4H9N
reactant | Sodium triacetoxyborohydride | 9.7 mmol, 2.06 g, 1.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc n-hexane | CCOC(=O)C.CCCCCC
product | 5-Pyrrolidin-1-ylmethyl-furan-2-carboxylic acid methyl ester | 426 mg, 31% yield | COC(=O)C=1OC(=CC1)CN1CCCC1 | C11H15NO3
